US08748632B2
Preparation of Methyl cyclopentyl(4-methoxyphenethyl)carbamate
To a solution of N-(4-methoxyphenethyl)cyclopentanamine (0.827 g, 3.77 mmol) in diethyl ether was added triethylamine (0.83 mL, 5.66 mmol) and methyl chloroformate (0.44 mL, 5.66 mmol) at 0° C. The reaction mixture was gradually warmed to room temperature and stirred for 30 min. Filtration and concentration of mixture under reduced pressure gave the crude product which was purified by silica gel column chromatography using hexanes/ethyl acetate to provide the product (0.898 g, 86%) as light yellow oil. 1H NMR (400 MHz, CDCl3): δ 7.10 (d, 2H, J=8.6 Hz), 6.81 (d, 211, J=8.6 Hz), 4.32-4.12 (m, 1H), 3.76 (s, 3H), 3.69 (s, 3H), 3.24 (t, 2H, J=7.9 Hz), 2.76 (t, 2H, J=7.9 Hz), 1.79-1.76 (m, 2H), 1.67-1.66 (m, 2H), 1.54-1.47 (m, 4H). LC-MS (ESI) Calcd for C16H23NO3 [M+H]+: 278.17. Found: 278.00.

reactant | N-(4-methoxyphenethyl)cyclopentanamine | 3.77 mmol, 0.827 g | COC1=CC=C(CCNC2CCCC2)C=C1 | C14H21NO
reactant | triethylamine | 5.66 mmol, 0.83 mL | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 5.66 mmol, 0.44 mL | ClC(=O)OC | C2H3ClO2
solvent | diethyl ether | C(C)OCC | C4H10O
product | Methyl cyclopentyl(4-methoxyphenethyl)carbamate | 0.898 g, 86% | C1(CCCC1)N(C(OC)=O)CCC1=CC=C(C=C1)OC | C16H23NO3
